OpenCircuit factory test: forward_07.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8602925373495652352
* Revision: Rev:1.1
.model OC_HONGJIACHENG_MURS160 D(IS=1.9376518877e-10 N=2.0639571059e0 RS=1.1828542176e-2)

.temp 25
Itest 0 anode DC 1.0000000000e0
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_MURS160
.op
.end
